US03951976
Preparation of Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-(2,4-dimethylphenyl)carbamoyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole) and 2,4-dimethylphenyl isocyanate (3.5 ml; 0.06 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer. The mixture is stirred and triethylamine (1 drop) is added thereto. After the addition is completed the reaction mixture is allowed to stand for a period of about 1 hour. The mixture is then washed with hexane and is dried to yield the desired product tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-(2,4-dimethylphenyl)carbamoyloxy]-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C11H18N4O2S
reactant | 2,4-dimethylphenyl isocyanate | 0.06 mole, 3.5 ml | CC1=C(C=CC(=C1)C)N=C=O | C9H9NO
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-(2,4-dimethylphenyl)carbamoyloxy]-2(1H)-pyrimidinone | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1OC(NC1=C(C=C(C=C1)C)C)=O)C)=O | C20H27N5O3S
